US08222245B2
1,1-Dimethylethyl 8-[(hydroxyamino)(imino)methyl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A mixture of 1,1-dimethylethyl 8-cyano-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (Preparation 32) (0.195 g, 0.711 mmol), hydroxylamine hydrochloride (0.099 g, 1.422 mmol) and sodium bicarbonate (0.299 g, 3.55 mmol) in ethanol (5 ml) was stirred and heated at 60° C. for 3 hours. The reaction mixture was cooled, evaporated and dissolved in EtOAc/water (40 ml of each, some warming needed) and the organics dried (magnesium sulphate) and evaporated to give the title compound (210 mgs) as a white solid. MS (ES) C15H21N3O4 requires 307; found 308 [M+H]+.

reactant | 1,1-dimethylethyl 8-cyano-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.711 mmol, 0.195 g | C(#N)C1=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C=C1 | C15H18N2O3
reactant | hydroxylamine hydrochloride | 1.422 mmol, 0.099 g | Cl.NO
reactant | sodium bicarbonate | 3.55 mmol, 0.299 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,1-Dimethylethyl 8-[(hydroxyamino)(imino)methyl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 210 mgs | ONC(C1=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C=C1)=N | C15H21N3O4
